US04093812
Heat 1 g of 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxylic acid together with 0.56 g of phosphorus oxychloride and 10 ml of dichloroethane for 2 hours at 80° C. Add 10 ml of a 25% aqueous solution dropwise at 0° C to the thus-obtained solution of 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxylic chloride. Allow the resulting mixture to stand overnight and then vacuum distil it to remove the organic solvent therefrom. Vacuum filter to separate formed precipitate and recrystallize the filter residue from dimethylformamide/methanol to obtain 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxamide [m.p. 236° to 238° C].

reactant | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxylic acid | 1 g | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C(=O)O)C1=CC=CC=C1 | C14H9N3O5
reactant | phosphorus oxychloride | 0.56 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxylic chloride | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C(=O)Cl)C1=CC=CC=C1 | C14H8ClN3O4
solvent | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
product | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxamide | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C(=O)N)C1=CC=CC=C1 | C14H10N4O4
